US06048868
EXAMPLE 60 DHCARBO2S: 1-(6-methoxy-1-methyl-2,3,4,9-tetrahydro-1H-βcarbolin-2-yl)-1-ethane-thione
Lawesson's reagent (520 mg) is added portionwise, at 110° C., to a solution of 1-(6-methoxy-1-methyl-2,3,4,9-tetrahydro- 1H-β-carbolin-2-yl)-1 -ethanone (500 mg) in anhydrous toluene (25 mL). After refluxing for 1 h and evaporation of the toluene, the product is chromatographed on silica gel (99/1 chlorofomvmethanol eluent) and the 1-(6-methoxy-1-methyl-2,3,4,9-tetrahydro- 1H-β-carbolin-2-yl)-1 -ethanethione is thus recovered (40% yield).

reactant | Lawesson's reagent | 520 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 1-(6-methoxy-1-methyl-2,3,4,9-tetrahydro- 1H-β-carbolin-2-yl)-1 -ethanone | 500 mg | COC=1C=C2C=3CCN(C(C3NC2=CC1)C)C(C)=O | C15H18N2O2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(6-methoxy-1-methyl-2,3,4,9-tetrahydro-1H-βcarbolin-2-yl)-1-ethane-thione | 40% yield | COC=1C=C2C=3CCN(C(C3NC2=CC1)C)C(C)=S | C15H18N2OS
